US05286875
22.4 g of 4-acetoxycaprolactone were stirred for 1 hour at 330° C. in an autoclave together with 100 g of 25% strength aqueous ammonia. After cooling and depressurizing the autoclave, the reaction product was concentrated on a rotary evaporator (40° C./30 mbar) and purified by short path distillation. In this case, 10.1 g of 5-hydroxyethylpyrrolidone were obtained (61%, based on the 4-acetoxycaprolactone employed) and identified by NMR spectroscopy.

reactant | 4-acetoxycaprolactone | 22.4 g | C(C)(=O)OC1CCC(=O)OCC1 | C8H12O4
reactant | ammonia | N | H3N
product | 5-hydroxyethylpyrrolidone | 10.1 g | OCCC1CCC(N1)=O | C6H11NO2
